US07388061B2
(1) Synthesis of 1-phenyl-2-methyl-1,3-butandione
Synthetic procedure was identical with that described in synthetic example 42(1), except that raw material dibenzoyl methane was replaced by 1-phenyl-1,3-butandione.

reactant | dibenzoyl methane | C(C1=CC=CC=C1)(=O)CC(C1=CC=CC=C1)=O | C15H12O2
reactant | 1-phenyl-1,3-butandione | C1(=CC=CC=C1)C(CC(C)=O)=O | C10H10O2
product | 1-phenyl-2-methyl-1,3-butandione | C1(=CC=CC=C1)C(C(C(C)=O)C)=O | C11H12O2
